US09169271B2
N-(3-((3S,4R)-3-Amino-4-(hydroxymethyl)tetrahydrofuran-3-yl)-4-fluorophenyl)acetamide hydrochloride
A mixture of N-(4-fluoro-3-((3aS,6aS)-1-((R)-1-phenylpropyl)hexahydrofuro[3,4-c]isoxazol-6a-yl)phenyl)acetamide (1.0 equiv., volumes are in mL/g of this compound), zinc chloride (0.2 equiv), and a 20% weight loading of water wet, sulfided 5% Pd/C catalyst is slurried in a mixture 1-propanol (4 mL/g), water (3.8 mL/g), and HCl (0.9 equiv, 33 weight % in water). The mixture is heated at 50° C. under hydrogen pressure (about 300-400 kPa) for about 16 hours. The catalyst is removed by filtration at about 50° C. and the filter cake is rinsed with 1-propanol (2.9 mL/g). Most of the water is removed from combined filtrates by azeotropic distillation using additional 1-propanol (10.5 mL/g). Additional HCl (0.1 equiv., 33 weight % in water) is added to the mixture and the solids are collected by filtration, rinsed twice with 1-propanol (1 mL/g) and dried to give the title compound. LC-MS (m/z): 269 (M+H).

reactant | N-(4-fluoro-3-((3aS,6aS)-1-((R)-1-phenylpropyl)hexahydrofuro[3,4-c]isoxazol-6a-yl)phenyl)acetamide | FC1=C(C=C(C=C1)NC(C)=O)[C@@]12N(OC[C@@H]1COC2)[C@H](CC)C2=CC=CC=C2 | C22H25FN2O3
reactant | 1-propanol | C(CC)O | C3H8O
reactant | HCl | 0.9 equiv | Cl | ClH
reactant | HCl | 0.1 equiv. | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
catalyst | zinc chloride | 0.2 equiv | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | N-(3-((3S,4R)-3-Amino-4-(hydroxymethyl)tetrahydrofuran-3-yl)-4-fluorophenyl)acetamide hydrochloride | Cl.N[C@]1(COC[C@H]1CO)C=1C=C(C=CC1F)NC(C)=O | InChI=1S/C13H17FN2O3.ClH/c1-8(18)16-10-2-3-12(14)11(4-10)13(15)7-19-6-9(13)5-17;/h2-4,9,17H,5-7,15H2,1H3,(H,16,18);1H/t9-,13+;/m1./s1
